US07915267B2
methyl N-{[3′-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)biphenyl-4-yl]sulfonyl}valinate
A suspension of methyl N-{[3′-(aminomethyl)biphenyl-4-yl]sulfonyl}valinate obtained in Reference Example 94 (0.300 g, 0.797 mmol) and ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate obtained according to the methods described in Journal of Organic Chemistry (1978), 43(23), 4485-7 and the like (0.145 g, 0.664 mmol) in EtOH (9 mL) was stirred at 90° C. for 5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, washed with 0.1N hydrochloric acid and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound as a colorless oil (0.375 g, 86%).

reactant | methyl N-{[3′-(aminomethyl)biphenyl-4-yl]sulfonyl}valinate | NCC=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C19H24N2O4S
reactant | ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
solvent | EtOH | 9 mL | CCO | C2H6O
product | methyl N-{[3′-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)biphenyl-4-yl]sulfonyl}valinate | 0.375 g, 86% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C28H28N4O6S
